US09062056B2
(R)-3-[3-(1,4-Dimethyl-1H-indol-3-ylmethyl)-6-methyl-2-oxo-2,3-dihydro-imidazo[4,5-c]pyridin-1-yl]-3-phenyl-propionic acid ethyl ester
To a solution of (R)-3-(6-methyl-2-oxo-2,3-dihydro-imidazo[4,5-c]pyridin-1-yl)-3-phenyl-propionic acid ethyl ester (80 mg, 0.25 mmol) in DMF (3 mL) were added K2CO3 (41 mg, 0.30 mmol) and (1,4-dimethyl-1H-indol-3-ylmethyl)-trimethyl-ammonium iodide (102 mg, 0.30 mmol). The reaction mixture was heated to 60° C. for 48 hours. The reaction mixture was diluted with ethyl acetate and washed with water (×4). The organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel prep TLC using 98:2 CH2Cl2:MeOH as an eluent to afford 80 mg (67%) of the title compound. LCMS, M++1, m/z: 484.10.

reactant | (R)-3-(6-methyl-2-oxo-2,3-dihydro-imidazo[4,5-c]pyridin-1-yl)-3-phenyl-propionic acid ethyl ester | 0.25 mmol, 80 mg | C(C)OC(C[C@H](C1=CC=CC=C1)N1C(NC=2C=NC(=CC21)C)=O)=O | C18H19N3O3
reactant | K2CO3 | 0.30 mmol, 41 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | (1,4-dimethyl-1H-indol-3-ylmethyl)-trimethyl-ammonium iodide | 0.30 mmol, 102 mg | [I-].CN1C=C(C2=C(C=CC=C12)C)C[N+](C)(C)C
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-3-[3-(1,4-Dimethyl-1H-indol-3-ylmethyl)-6-methyl-2-oxo-2,3-dihydro-imidazo[4,5-c]pyridin-1-yl]-3-phenyl-propionic acid ethyl ester | 80 mg, 67% | C(C)OC(C[C@H](C1=CC=CC=C1)N1C(N(C=2C=NC(=CC21)C)CC2=CN(C1=CC=CC(=C21)C)C)=O)=O | C29H30N4O3
